US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (112 mg) and 3-(1,3,4-triazol-1-yl)aniline (147 mg) in dichloromethane (3 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (188 mg) and 4-dimethylaminopyridine (43 mg). The mixture was stirred at ambient temperature for 24 hours and diluted with dichloromethane. The solution was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with methanol. The resulting precipitate was collected by filtration and dried to give N-(3-([1,2,4]triazol-4-yl)phenyl)-9H-carbazole-1-carboxamide (38 mg, 15.4%).

reactant | 9H-carbazole-1-carboxylic acid | 112 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 3-(1,3,4-triazol-1-yl)aniline | 147 mg | N1(C=NN=C1)C=1C=C(N)C=CC1 | C8H8N4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 188 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 43 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(3-([1,2,4]triazol-4-yl)phenyl)-9H-carbazole-1-carboxamide | 38 mg, 15.4% | N=1N=CN(C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12 | C21H15N5O
